US04623647
Preparation of 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline
0.01 mole (2.67 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline is dissolved in 30 ml of ethanol, and the solution is stirred with 0.015 mole of acetaldehyde for one hour. The reaction mixture is evaporated to dryness to yield the aimed compound in a crystalline form.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.01 mole, 2.67 g | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | acetaldehyde | 0.015 mole | C(C)=O | C2H4O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]-isoquinoline | OCC1COCN2C1C1=CC(=C(C=C1CC2)OC)OC | C15H21NO4
